US05656648
A) 1-(5-Chloro-2,4-dimethoxyphenyl)-1-ethanone
A mixture of 2 g of 1-chloro-2,4-dimethoxybenzene and 0.9 g of acetyl chloride in 20 ml of CCl4 is cooled to 0° C., and a solution of 1.3 ml of TiCl4 in 7 ml of CCl4 is added dropwise. The reaction mixture is left stirring for 2 hours while the temperature is allowed to rise to r.t. It is poured into a mixture of concentrated HCl and ice, the resulting mixture is extracted with DCM, the organic phase is dried over magnesium sulphate and the solvents are evaporated off under vacuum. The residue is chromatographed on silica H, eluting with a DCM/heptane (70:30; v/v) mixture. 1.19 g of the expected product, m.p.=138° C., are obtained.

reactant | 1-chloro-2,4-dimethoxybenzene | 2 g | ClC1=C(C=C(C=C1)OC)OC | C8H9ClO2
reactant | acetyl chloride | 0.9 g | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | TiCl4 | 1.3 ml | Cl[Ti](Cl)(Cl)Cl
product | 1-(5-Chloro-2,4-dimethoxyphenyl)-1-ethanone | 1.19 g | ClC=1C(=CC(=C(C1)C(C)=O)OC)OC | C10H11ClO3
